US09102673B2
Step 1: Methyl 4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
Methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (1 g, 4.75 mmole), 3-ethoxyphenylboronie acid (1.03 g, 6.21 mmole), Pd(OAc)2 (0.064 g, 0.285 mmole), X-Phos (0.226 g, 0.475 mmole), and potassium fluoride (0.828 g, 14.24 mmole) were combined in 1,4-dioxane (20 mL). The mixture was degassed (3× pump/N2) then heated to 100° C. After 4 hr the mixture was cooled to RT and diluted with EtOAc, filtered through a pad of Celite washing with EtOAc, and concentrated. Flash column (Biotage-SNAP-50 g SiO2, 50% EtOAc/hexanes) gave the title compound (1.02 g, 72.5%) as a pale yellow solid. 1H NMR (400 MHz, CDCl3): δ 9.20 (bs, 1 H); 8.51 (d, J=5.8 Hz, 1 H); 7.54-7.49 (m, 3 H); 7.47-7.38 (m, 1 H); 7.29 (d, J=5.9 Hz, 1 H); 7.04-7.00 (m, 1 H); 4.14 (q, J=6.83 Hz, 2 H); 3.97 (s, 3 H); 1.45 (t, J=7.12 Hz, 3 H).

reactant | Methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 4.75 mmole, 1 g | ClC1=NC=CC2=C1C=C(N2)C(=O)OC | C9H7ClN2O2
reactant | X-Phos | 0.475 mmole, 0.226 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium fluoride | 14.24 mmole, 0.828 g | [F-].[K+]
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.285 mmole, 0.064 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 4-(3-ethoxyphenyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 1.02 g, 72.5% | C(C)OC=1C=C(C=CC1)C1=NC=CC2=C1C=C(N2)C(=O)OC | C17H16N2O3
